US07317022B2
a. Preparation of 1-[(R)-tetrahydro-2-furoyl]-4-Boc-piperazine
To a solution of (R)-tetrahydro-2-furoic acid (5 g, 43.06 mmol) in toluene (75 mL) was added thionyl chloride (7.68 g, 64.6 mmol). The mixture was stirred at 90° C. for 2 h, then slowly cooled to 0° C. To a separate flask was charged a solution of N-Boc piperazine (8.02 g, 43.06 mmol) in toluene (40 mL), and aqueous sodium hydroxide (10.3 g, 258 mmol) in water (80 mL). This biphasic solution was cooled in an ice bath, followed by the addition of the cold acid chloride prepared above. The mixture was stirred vigorously for 2 h. The organic phase was collected, and washed with 1M H3PO4, dried and evaporated, to provide the title intermediate (9.87 g).

reactant | (R)-tetrahydro-2-furoic acid | 43.06 mmol, 5 g | O1[C@H](CCC1)C(=O)O | C5H8O3
reactant | thionyl chloride | 64.6 mmol, 7.68 g | S(=O)(Cl)Cl | Cl2OS
reactant | N-Boc piperazine | 43.06 mmol, 8.02 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | sodium hydroxide | 258 mmol, 10.3 g | [OH-].[Na+]
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 80 mL | O | H2O
product | 1-[(R)-tetrahydro-2-furoyl]-4-Boc-piperazine | 9.87 g | O1[C@H](CCC1)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C14H24N2O4
